* esp-p148-3way-crossover-retuned-quad-smd - generated by tools/gen_spice.py, do not edit
* Devices come from docs/netlist-esp-p148-3way-crossover-retuned-quad-smd.json; models are in models.lib

.param kf1=0.5 kf2=0.5 kv=1.0 km=1.0
.param mute1=0 mute2=0 mute3=0
.param rload=10k

* ---- supplies (J1) ----
* DC for .op and .ac; the PWL ramp is what .tran sees, so a
* transient starts from genuinely dead rails and the soft-start
* circuit is exercised rather than assumed.
* tramp: how long the rails take to come up.
* tfall/tcollapse: when, and how fast, they die - default far enough
* into the future that an ordinary transient never reaches it.
.param tramp=10m tfall=1000 tcollapse=50m
VCC VCC 0 DC 15  PWL(0 0 {tramp} 15 {tfall} 15 {tfall+tcollapse} 0)
VEE VEE 0 DC -15 PWL(0 0 {tramp} -15 {tfall} -15 {tfall+tcollapse} 0)

* ---- resistors ----
R1 N160_280 0 47k
R10 TP1 N680_300 10k
R11 LP1 TP1 10k
R12 N530_700 N1580_640 5.6k
R13 N570_920 0 11k
R14 N570_920 N1100_900 5.6k
R15 LP1 N530_700 5.6k
R16 N530_700 N680_900 5.6k
R17 N830_900 N950_900 13k
R18 N1280_900 N1400_900 13k
R19 N680_900 MID_PRE 100
R2 N350_300 N530_100 5.6k
R20 N1580_640 N1680_900 5.6k
R21 N1680_900 N1850_900 5.6k
R22 N1850_900 LOW_PRE 100
R23 TP2 N680_900 10k
R24 N1580_640 TP2 10k
R25 N2150_1250 N2260_1250 100
R26 N2150_1400 N2260_1400 100
R27 N2150_1550 N2260_1550 100
R28 HIGH 0 100k
R29 MID 0 100k
R3 N570_320 0 11k
R30 LOW 0 100k
R31 HIGH_VOL HIGH_MUTE 10k
R32 MID_VOL MID_MUTE 10k
R33 LOW_VOL LOW_MUTE 10k
R34 MG1 VEE 1meg
R35 MG2 VEE 1meg
R36 MG3 VEE 1meg
R37 VCC LX1 2.2k
R38 VCC LX2 2.2k
R39 VCC LX3 2.2k
R4 N570_320 N1100_300 5.6k
R40 VEE MUTE_SS 1meg
R5 N530_100 N680_300 5.6k
R6 N530_100 LP1 5.6k
R7 N830_300 N950_300 4.7k
R8 N1280_300 N1400_300 4.7k
R9 N680_300 HIGH_PRE 100

* ---- capacitors ----
C0 INPUT N160_280 10u
C1 N950_300 N1100_300 33n
C10 0 VEE 100n
C11 VCC 0 10u
C12 0 VEE 10u
C13 N2260_1250 HIGH 10u
C14 N2260_1400 MID 10u
C15 N2260_1550 LOW 10u
C16 MUTE_SS 0 10u
C2 N1400_300 LP1 33n
C3A N950_900 N1100_900 33n
C3B N950_900 N1100_900 33n
C4A N1400_900 N1580_640 33n
C4B N1400_900 N1580_640 33n
C5 VCC 0 100n
C6 0 VEE 100n
C7 VCC 0 100n
C8 0 VEE 100n
C9 VCC 0 100n

* ---- potentiometers (k = rotation, 0..1) ----
RVR1A_a N680_300 N830_300 {max(1-kf1,1e-4)*20k}
RVR1B_a N1100_300 N1280_300 {max(1-kf1,1e-4)*20k}
RVR2A_a N680_900 N830_900 {max(1-kf2,1e-4)*20k}
RVR2B_a N1100_900 N1280_900 {max(1-kf2,1e-4)*20k}
RVR3_a HIGH_PRE HIGH_VOL {max(1-kv,1e-4)*10k}
RVR3_b HIGH_VOL 0 {max(kv,1e-4)*10k}
RVR4_a MID_PRE MID_VOL {max(1-kv,1e-4)*10k}
RVR4_b MID_VOL 0 {max(kv,1e-4)*10k}
RVR5_a LOW_PRE LOW_VOL {max(1-kv,1e-4)*10k}
RVR5_b LOW_VOL 0 {max(kv,1e-4)*10k}
RVR6_a INPUT_PRE INPUT {max(1-km,1e-4)*50k}
RVR6_b INPUT 0 {max(km,1e-4)*50k}

* ---- op-amp sections (MC33079 quad) ----
XU1A N160_280 N350_300 N350_300 VCC VEE OPAMP
XU1B N570_320 N530_100 N680_300 VCC VEE OPAMP
XU1C 0 N950_300 N1100_300 VCC VEE OPAMP
XU1D 0 N1400_300 LP1 VCC VEE OPAMP
XU2A N570_920 N530_700 N680_900 VCC VEE OPAMP
XU2B 0 N950_900 N1100_900 VCC VEE OPAMP
XU2C 0 N1400_900 N1580_640 VCC VEE OPAMP
XU2D 0 N1680_900 N1850_900 VCC VEE OPAMP
XU3A HIGH_MUTE N2150_1250 N2150_1250 VCC VEE OPAMP
XU3B MID_MUTE N2150_1400 N2150_1400 VCC VEE OPAMP
XU3C LOW_MUTE N2150_1550 N2150_1550 VCC VEE OPAMP
XU3D 0 N2150_1700 N2150_1700 VCC VEE OPAMP

* ---- mute shunt JFETs (pin 1 drain, 2 source, 3 gate) ----
J1 HIGH_MUTE MG1 0 JFET
J2 MID_MUTE MG2 0 JFET
J3 LOW_MUTE MG3 0 JFET

* ---- diodes ----
D1 MUTE_SS MG1 D1N4148
D2 MUTE_SS MG2 D1N4148
D3 MUTE_SS MG3 D1N4148
D4 VEE MUTE_SS D1N4148

* ---- mute buttons (DPDT latching; mute<N>=1 means pressed) ----
RSW1_pa MG1 0 {mute1>0.5 ? 1m : 1G}
RSW1_pb LX1 SW1_NC2 {mute1>0.5 ? 1m : 1G}
RSW1_ra MG1 SW1_NC1 {mute1>0.5 ? 1G : 1m}
RSW1_rb LX1 LD1 {mute1>0.5 ? 1G : 1m}
RSW2_pa MG2 0 {mute2>0.5 ? 1m : 1G}
RSW2_pb LX2 SW2_NC2 {mute2>0.5 ? 1m : 1G}
RSW2_ra MG2 SW2_NC1 {mute2>0.5 ? 1G : 1m}
RSW2_rb LX2 LD2 {mute2>0.5 ? 1G : 1m}
RSW3_pa MG3 0 {mute3>0.5 ? 1m : 1G}
RSW3_pb LX3 SW3_NC2 {mute3>0.5 ? 1m : 1G}
RSW3_ra MG3 SW3_NC1 {mute3>0.5 ? 1G : 1m}
RSW3_rb LX3 LD3 {mute3>0.5 ? 1G : 1m}

* ---- panel LEDs, off-board on the J6 loom ----
DLD1 LD1 0 DLED
DLD2 LD2 0 DLED
DLD3 LD3 0 DLED

* ---- input (J2) and the amplifier loads on J3/J4/J5 ----
.param vamp=0.1 vfreq=1k rsrc=600
Vin SRC 0 DC 0 AC 1 SIN(0 {vamp} {vfreq})
Rsrc SRC INPUT_PRE {rsrc}
Rload_HIGH HIGH 0 {rload}
Rload_MID MID 0 {rload}
Rload_LOW LOW 0 {rload}

.end
